### PR TITLE
[Merged by Bors] - feat: port Data.Int.Cast.Basic

### PR DESCRIPTION
**Pull request by j-loreaux**
mathlib3 SHA: 39af7d3bf61a98e928812dbc3e16f4ea8b795ca3

Porting notes:

1. Some lemmas were transferred from `Data.Int.Cast.Defs` in order to match mathlib3 (I accidentally put them in the wrong place when I had ported that file because those lemmas were already present in mathlib4.)
2. The lemmas just mentioned have retained their `simp` attribute for the reason Gabriel mentioned on that PR (#641), even though that attribute isn't present on the mathlib3 version.
3. The `bit0` and `bit1` lemmas have been marked as deprecated.
4. There were many dubious translation errors, I believe primarily because of the difference in the way coercions are handled, so I have `#align`ed all of these with `ₓ`. I believe this is the correct thing to do, but confirmation would be nice.

---

* The first commit is the raw mathport output
* After getting the file to compile, I left one commit before I deleted the dubious translation warnings, so you can look at that to compare.

### CODE REVIEW

**Comment by j-loreaux** [comment]
@digama0 can you confirm for me that `#align ...ₓ` is the right thing to do in this situation?

File: Mathlib/Data/Int/Cast/Basic.lean [hunk 1]
```diff
@@ -7,59 +7,141 @@ import Mathlib.Data.Int.Cast.Defs
...
   cases e : n - m
-  · simp only [subNatNat, cast_ofNat]
+  · rw [cast_ofNat]
     simp [e, Nat.le_of_sub_eq_zero e]
   · rw [cast_negSucc, Nat.add_one, ← e, Nat.cast_sub <| _root_.le_of_lt <| Nat.lt_of_sub_eq_succ e,
       neg_sub]
-#align int.cast_sub_nat_nat Int.cast_subNatNat
+#align int.cast_sub_nat_nat Int.cast_subNatNatₓ
+
+-- porting note: already exists in `Std`, but still needs `#align`ed
```
Comment (digama0) [inline Mathlib/Data/Int/Cast/Basic.lean:85]:
```suggestion
```
This kind of situation comes up all the time, I don't think it needs a porting note.

**Comment by digama0** [comment]
I use the convention that any `#align ...ₓ` should have a short comment after it identifying why it's a dubious translation, e.g. `reordered implicits`, `mismatching universes`, `Int.div alignment`. In this case, I take it it's the typeclass args on the function? The answer to your question is probably yes, but it would be good to document the reason.

File: Mathlib/Data/Int/Cast/Basic.lean [hunk 2]
```diff
@@ -7,59 +7,149 @@ import Mathlib.Data.Int.Cast.Defs
...
+
 namespace Int
-variable [AddGroupWithOne R]
+
+variable {R : Type u} [AddGroupWithOne R]
+
+@[simp, norm_cast]
+theorem cast_negSucc (n : ℕ) : (-[n+1] : R) = -(n + 1 : ℕ) :=
+  AddGroupWithOne.intCast_negSucc n
+#align int.cast_neg_succ_of_nat Int.cast_negSuccₓ
```
Comment (gebner) [inline Mathlib/Data/Int/Cast/Basic.lean:52]:
```suggestion
#align int.cast_neg_succ_of_nat Int.cast_negSucc
```
We definitely want to translate these without the ₓ.  The only reason this statement is different is because `coe` is gone now, but this lemma is the closest approximation we've got in Lean 4.  I think the statement is even defeq to the Lean 3 version.

(Note sure about the precise semantics of `#align foo Fooₓ` so maybe the ₓ does what I want.)

Comment (j-loreaux) [reply Mathlib/Data/Int/Cast/Basic.lean:52]: There is no `ₓ` that appears in the final translation. The `ₓ` is just a signal to mathport that the types don't match and it should use the type of `Foo` downstream instead of `foo`.

I think in this case the dubious translations are arising mostly (if not entirely) from the fact that the nightly on which this mathport output was based came from a mathlib4 before I had ported `Data.{Nat, Int}.Cast.Defs`. I will check again when the next nightly comes out to see if these are still marked as dubious.

**Comment by semorrison** [comment]
bors merge
